US07465795B2
4-amino-8-(2,5-dichlorophenyl)-N-propyl-cinnoline-3-carboxamide
Using method A, 4-amino-8-bromo-N-propyl-cinnoline-3-carboxamide (150 mg, 0.485 mmol) and 2,5-dichloro-phenylboronic acid (190 mg, 1.00 mmol) were reacted to afford the title compound (85 mg, 47% yield) as a white solid. 1H NMR (300 MHz, CDCl3) δ 8.52 (br, 1H), 7.99-7.91 (m, 1H), 7.78-7.67 (m, 2H), 7.48-7.31 (m, 3H), 3.45 (apparent quartet, J=7.0 Hz, 2H), 1.65 (apparent sextet, J=7.0 Hz, 2H), 1.00 (t, J=7.0 Hz, 3H). MS APCI, m/z=375 (M+H). HPLC 2.24 min.

reactant | 4-amino-8-bromo-N-propyl-cinnoline-3-carboxamide | 0.485 mmol, 150 mg | NC1=C(N=NC2=C(C=CC=C12)Br)C(=O)NCCC | C12H13BrN4O
reactant | 2,5-dichloro-phenylboronic acid | 1.00 mmol, 190 mg | ClC1=C(C=C(C=C1)Cl)B(O)O | C6H5BCl2O2
product | 4-amino-8-(2,5-dichlorophenyl)-N-propyl-cinnoline-3-carboxamide | 85 mg, 47% yield | NC1=C(N=NC2=C(C=CC=C12)C1=C(C=CC(=C1)Cl)Cl)C(=O)NCCC | C18H16Cl2N4O
